US06403573B1
Nitrogen was passed through a stirred suspension of (Z)-3-(2,3-dimethoxyphenyl)-2-propenoic acid (14,67 g) in 400 ml of methanol during 15 minutes. Then 1.4 g of 10% palladium on activated carbon were added and a stream of hydrogen was passed through the reaction mixture for 16 hours. After removing the palladium catalyst by filtration, the filtrate was evaporated to yield 14.2 g of 3-(2,3-dimethoxyphenyl)-propanoic acid, M.S. (C.I.) (MZ): 211 [M+H]+.

reactant | (Z)-3-(2,3-dimethoxyphenyl)-2-propenoic acid | 14,67 g | COC1=C(C=CC=C1OC)\C=C/C(=O)O | C11H12O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 400 ml | CO | CH4O
catalyst | palladium on activated carbon | 1.4 g | [Pd] | Pd
product | 3-(2,3-dimethoxyphenyl)-propanoic acid | 14.2 g | COC1=C(C=CC=C1OC)CCC(=O)O | C11H14O4
